US04609650
16β-Ethyl-17β-(2-carboxyethyl)carbonyloxyacetoxy-4-estren-3-one
In 100 ml of 50% aqueous acetone are dissolved 1.5 g of 16β-ethyl-17β-bromoacetoxy-4-estren-3-one and 0.7 g of monosodium succinate and the solution is stirred at room temperature (15°-25° C.) for 3 days. The acetone is distilled off under reduced pressure and the residue is extracted with 150 ml of ethyl acetate. The organic layer is separated, washed with water and saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent is then distilled off under reduced pressure and the residue is subjected to column chromatography. Following passage of 450 ml of chloroform, elution is carried out with 150 ml of ethyl acetate. The eluate is evaporated under reduced pressure to remove the solvent, giving colorless crystals. The product is washed with petroleum ether and dried to give 0.4 g of the above-identified compound.

reactant | 16β-ethyl-17β-bromoacetoxy-4-estren-3-one | 1.5 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(CBr)=O | C22H31BrO3
reactant | monosodium succinate | 0.7 g | C(CCC(=O)O)(=O)[O-].[Na+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 16β-Ethyl-17β-(2-carboxyethyl)carbonyloxyacetoxy-4-estren-3-one | 0.4 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(COC(=O)CCC(=O)O)=O | C26H36O7
